US07696240B2
To a solution of 6-fluoro-9-naphthalen-1-ylmethyl-4,9-dihydro-pyrano[3,4-b]indole-1,3-dione (1.0 mmole) in CH2Cl2 (3 ml) was added n-butylamine (5 mmole) and stirring was continued at 60° C. until completion of the reaction. The mixture was evaporated and the residue partitioned between aqueous HCl and AcOEt. The organic layer was dried, evaporated and the residue triturated with diethylether to give 3-butylcarbamoylmethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid as a white solid. MS: 431.4 ([M−H]−).

reactant | 6-fluoro-9-naphthalen-1-ylmethyl-4,9-dihydro-pyrano[3,4-b]indole-1,3-dione | 1.0 mmole | FC=1C=C2C3=C(N(C2=CC1)CC1=CC=CC2=CC=CC=C12)C(OC(C3)=O)=O | C22H14FNO3
reactant | n-butylamine | 5 mmole | C(CCC)N | C4H11N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-butylcarbamoylmethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | C(CCC)NC(=O)CC1=C(N(C2=CC=C(C=C12)F)CC1=CC=CC2=CC=CC=C12)C(=O)O | C26H25FN2O3
